US06133260
B) 8-Cyano-1-cyclopropyl-6-fluoro-7-((1 R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]non-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid Hydrochloride
Analogously to Example 1C, 8-cyano-1-cyclopropyl-6-fluoro-7-((1R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]non-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is reacted with hydrochloric acid.

reactant | 8-cyano-1-cyclopropyl-6-fluoro-7-((1R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]non-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@H]2NCCO[C@@H]2C1 | C20H19FN4O4
reactant | hydrochloric acid | Cl | ClH
product | 8-Cyano-1-cyclopropyl-6-fluoro-7-((1 R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]non-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid Hydrochloride | Cl.C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@H]2NCCO[C@@H]2C1 | InChI=1S/C20H19FN4O4.ClH/c21-14-5-11-17(25(10-1-2-10)7-13(19(11)26)20(27)28)12(6-22)18(14)24-8-15-16(9-24)29-4-3-23-15;/h5,7,10,15-16,23H,1-4,8-9H2,(H,27,28);1H/t15-,16-;/m1./s1
